US05783522
(E)-3-Chloro-2-[4-chloro-3-(2-ethoxycarbonylvinyl)phenyl]-5-trifluoromethylpyridine (Table 1, Example I.146)
A solution of 1.35 g of sodium ethoxide in 20 ml of anhydrous ethanol was added dropwise to 4.0 g of 3-chloro-2-(4-chloro-3-formylphenyl)-5-trifluoromethylpyridine and 2.9 g of triethyl phosphonatoacetate in 70 ml of anhydrous toluene. After stirring at about 20° C. for 44 hours, the solvent was removed. The residue was taken up in 100 ml of 10% strength hydrochloric acid and extracted three times with 100 ml of ethyl acetate each time. The combined organic phases were washed with 100 concentrated. Chromatography on silica gel with cyclohexane/ethyl acetate (10:1) resulted in 3.4 g (71%) of colorless crystals; melting point: 118°-120° C.

reactant | sodium ethoxide | 1.35 g | [O-]CC.[Na+]
reactant | 3-chloro-2-(4-chloro-3-formylphenyl)-5-trifluoromethylpyridine | 4.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C=O | C13H6Cl2F3NO
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-Chloro-2-[4-chloro-3-(2-ethoxycarbonylvinyl)phenyl]-5-trifluoromethylpyridine | 3.4 g, 71% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)\C=C\C(=O)OCC | C17H12Cl2F3NO2
